US05977178
At 0° C., N-(3-dimethylaminopropyl)-N'-ethylcarbodiimide hydrochloride (2.18 g, 11.4 mmol) was added to a solution of (2R)-2-(N-(tert-butoxycarbonyl)-N-methylamino)-3-phenylpropionic acid (3.0 g, 11.4 mmol) and 1-hydroxybenzotriazole hydrate (1.54 g, 11.4 mmol) in N,N-dimethylformamide (2 ml) and dichloromethane (4 ml). The reaction mixture was stirred for 15 min at 0° C. 2,2,2-Trifluoroethylamine (0.91 ml, 11.4 mmol) and ethyidiisopropylamine (2.0 ml, 11.39 mmol) were added successively. The reaction mixture was stirred for 16 h, while it was warming up to room temperature. It was diluted with ethyl acetate (150 ml) and washed with 10% aqueous sodium hydrogen sulfate solution (200 ml). The aqueous phase was extracted with ethyl acetate (2×30 ml). The combined organic layers were washed with saturated sodium hydrogen carbonate solution (150 ml) and dried over magnesium sulfate. The solvent was removed in vacuo. The crude product was purified by flash chromatography on silica (240 g), using ethyl acetate/heptane 1:2 as eluent, to give 3.52 g of N-methyl-N-((1R)-2-phenyl-1-((2,2,2-trifluoroethyl)carbamoyl)ethyl)carbamic acid tert-butyl ester.

reactant | N-(3-dimethylaminopropyl)-N'-ethylcarbodiimide hydrochloride | 11.4 mmol, 2.18 g | Cl.CN(CCCN=C=NCC)C
reactant | (2R)-2-(N-(tert-butoxycarbonyl)-N-methylamino)-3-phenylpropionic acid | 11.4 mmol, 3.0 g | C(C)(C)(C)OC(=O)N(C)[C@@H](C(=O)O)CC1=CC=CC=C1 | C15H21NO4
reactant | 1-hydroxybenzotriazole hydrate | 11.4 mmol, 1.54 g | O.ON1N=NC2=C1C=CC=C2
reactant | 2,2,2-Trifluoroethylamine | 11.4 mmol, 0.91 ml | FC(CN)(F)F | C2H4F3N
reactant | ethyidiisopropylamine | 11.39 mmol, 2.0 ml | C(C)N(C(C)C)C(C)C | C8H19N
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
product | N-methyl-N-((1R)-2-phenyl-1-((2,2,2-trifluoroethyl)carbamoyl)ethyl)carbamic acid tert-butyl ester | 3.52 g | C(C)(C)(C)OC(N([C@H](CC1=CC=CC=C1)C(NCC(F)(F)F)=O)C)=O | C17H23F3N2O3
